US07384967B2
4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl)-acetyl)-1-methyl-piperazinium chloride (392 mg) is prepared from 4-(2-{2-[3-(2-cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl}-acetyl)-1-methyl-piperazine (386 mg, 1.0 mmol) by treatment with anhydrous hydrogen chloride (5 ml, 4.0 M solution in dioxane) followed by collection of the solid product.

reactant | 4-(2-{2-[3-(2-cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl}-acetyl)-1-methyl-piperazine | 1.0 mmol, 386 mg | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CC(=O)N1CCN(CC1)C)=O | C24H31N5O3S
reactant | hydrogen chloride | 4.0 M, 5 ml | Cl | ClH
product | 4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl)-acetyl)-1-methyl-piperazinium chloride | 392 mg | [Cl-].C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CC(=O)N1CC[NH+](CC1)C)=O | InChI=1S/C24H31N5O3S.ClH/c1-16-7-8-20(19(13-16)22(31)17-5-3-4-6-17)26-23(32)27-24-25-18(15-33-24)14-21(30)29-11-9-28(2)10-12-29;/h7-8,13,15,17H,3-6,9-12,14H2,1-2H3,(H2,25,26,27,32);1H
